US05580872
Step 5: Ethyl 1-ethyl-8-(4-methylpiperazin-1-yl)-6,7,9-trifluoro-4H-quinolizin-4-one-3-carboxylate
Ethyl 8-chloro-1-ethyl-6,7,8,9-tetrafluoro-4H-quinolizin-4-one-3-carboxylate (317 mg, 1.0 mmol), from Step 4, is dissolved in 5 mL of dry pyridine under a nitrogen atmosphere. To the resultant solution is added 2 mL (2.0 mmol) of N-methylpiperazine and the stirred reaction mixture is heated at 85° C. for 2.5 hours. The reaction mixture is allowed to cool to ambient temperature and then concentrated in vacuo in order to remove all of the pyridine. The residue is dissolved in 50 mL of methylene chloride and the methylene chloride solution is washed with 50 mL of 5% aqueous sodium bicarbonate solution. The aqueous layer is extracted with 3×50 mL of methylene chloride and the combined methylene chloride solutions are dried over anhydrous sodium sulfate, filtered and concentrated and dried in vacuo to afford the title compound.

reactant | Ethyl 8-chloro-1-ethyl-6,7,8,9-tetrafluoro-4H-quinolizin-4-one-3-carboxylate | 1.0 mmol, 317 mg | ClC1(C(=C(N2C(C(C=C(C2=C1F)CC)C(=O)OCC)=O)F)F)F | C14H12ClF4NO3
reactant | N-methylpiperazine | 2.0 mmol, 2 mL | CN1CCNCC1 | C5H12N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 1-ethyl-8-(4-methylpiperazin-1-yl)-6,7,9-trifluoro-4H-quinolizin-4-one-3-carboxylate | C(C)C=1C=C(C(N2C(=C(C(=C(C12)F)N1CCN(CC1)C)F)F)=O)C(=O)OCC | C19H22F3N3O3
